************************************************************************
* auCdl Netlist:
* 
* Library Name:  MOD_5_Counter
* Top Cell Name: INV
* View Name:     schematic
* Netlisted on:  Sep 17 20:19:57 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MOD_5_Counter
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV GND IN VDD Y
*.PININFO IN:I Y:O GND:B VDD:B
MNM0 Y IN GND GND N_12_LLRVT W=200e-9 L=60n M=1
MPM0 Y IN VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
.ENDS

